US07678815B2
A solution of 2-methyl-4-amino-pyrimidine (0.184 g, 1.68 mmol) in 10 ml dry dioxane was treated at 0° C. with trimethylaluminium (2M in hexane, 0.84 ml, 1.68 mmol). The mixture was stirred at room temperature for 1 h. 5-(Cyclopropylmethoxycarbonyl-(cyclopropylmethyl)-amino)-2-methyl-thiazole-4-carboxylic acid ethyl ester (0.135 g, 0.40 mmol) was added and the reaction mixture was refluxed for 4 h. 1 ml water and 2 g sodium sulfate were sequentially added and filtered. The filtrate was evaporated and the residue purified by flash chromatography with heptane/ethyl acetate 100:0→0:100 gradient to yield cyclopropylmethyl-[2-methyl-4-(2-methyl-pyrimidin-4-ylcarbamoyl)-thiazol-5-yl]-carbamic acid cyclopropylmethyl ester (0.101 g, 63%) as a colourless oil, MS (ISP): m/e=402.5 (M+H+).

reactant | 2-methyl-4-amino-pyrimidine | 1.68 mmol, 0.184 g | CC1=NC=CC(=N1)N | C5H7N3
reactant | trimethylaluminium | 1.68 mmol, 2M, 0.84 ml | C[Al](C)C
reactant | 5-(Cyclopropylmethoxycarbonyl-(cyclopropylmethyl)-amino)-2-methyl-thiazole-4-carboxylic acid ethyl ester | 0.40 mmol, 0.135 g | C(C)OC(=O)C=1N=C(SC1N(CC1CC1)C(=O)OCC1CC1)C | C16H22N2O4S
reactant | sodium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | cyclopropylmethyl-[2-methyl-4-(2-methyl-pyrimidin-4-ylcarbamoyl)-thiazol-5-yl]-carbamic acid cyclopropylmethyl ester | 0.101 g, 63% | C1(CC1)COC(N(C1=C(N=C(S1)C)C(NC1=NC(=NC=C1)C)=O)CC1CC1)=O | C19H23N5O3S
